US04331666
6-chloro-8-aminocarbonyl-tetrazolo[1,5-b]pyridazine
To an ice-cold solution of 3-hydrazino-4-aminocarbonyl-6-chloro-pyridazine (4.2 g; 0.0244 mole) [obtained as reported in J. Het. Chemistry, 7, 465 (1970)] in 15% acetic acid, a solution of sodium nitrite (1.55 g) in water (10 ml) was added dropwise. After stirring for one hour at 5°-10° C., the separated precipitate was filtered, crystallized from water, filtered again and dried under vacuum at 50° C. to give 3.44 g (77.5%) of the title compound, m.p. 226° C. (dec.).

reactant | 3-hydrazino-4-aminocarbonyl-6-chloro-pyridazine | 0.0244 mole, 4.2 g | N(N)C=1N=NC(=CC1C(=O)N)Cl | C5H6ClN5O
reactant | sodium nitrite | 1.55 g | N(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | 6-chloro-8-aminocarbonyl-tetrazolo[1,5-b]pyridazine | 3.44 g, 77.5% | ClC=1C=C(C=2N(N1)N=NN2)C(=O)N | C5H3ClN6O
